US08222248B2
A mixture of 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester (310 mg, 640 mmols) and 3.2 mL of 1N sodium hydroxide in MeOH (1.6 mL) was stirred until the reaction was complete. The solution was neutralized to pH 4-5 with 1N hydrochloric acid and the resulting precipitate was filtered, washed with water, and dried under reduced pressure to afford 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid. 1H-NMR (DMSO-d6, 400 MHz): δ 12.17 (s, broad, 1H), 10.22 (s, 1H), 8.29 (s, broad, 1H), 7.89 (d, J=8.5 Hz, 2H), 7.74 (d, J=9.0 Hz, 2H), 7.72 (m, 1H), 7.37 (d, J=9.0 Hz, 2H), 7.10 (s, 2H), 2.85 (t, J=7.3 Hz, 2H,), 2.59 (t, =7.3 Hz, 2H), 2.10 (s, 6H). MS (ESI) m/z 470.2 (M+H). High resolution MS (M+H): theory 470.2444, measured 470.2434.

reactant | 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid methyl ester | 640 mmols, 310 mg | COC(CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=CC=C(C=C2)C(C)(C)C)=O)C)=O | C30H33N3O3
reactant | sodium hydroxide | 1N, 3.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | MeOH | 1.6 mL | CO | CH4O
product | 3-{4-[6-(4-tert-butylphenylcarbamoyl)-1H-benzimidazol-2-yl]-3,5-dimethylphenyl}-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CCC(=O)O)C)C1 | C29H31N3O3
